US08937091B2
3,4-dimethoxy-1-acryloylbenzene 8243
1,2-dimethoxybenzene (135 mg), acryloyl chloride (118 mg), and aluminium chloride (199 mg) were reacted in dichloromethane (1.5 mL) at from −40° C. to room temperature for 2 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (55 mg).

reactant | 1,2-dimethoxybenzene | 135 mg | COC1=C(C=CC=C1)OC | C8H10O2
reactant | acryloyl chloride | 118 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 199 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 3,4-dimethoxy-1-acryloylbenzene | 55 mg | COC=1C=C(C=CC1OC)C(C=C)=O | C11H12O3
